US06166028
Trifluoro-methanesulfonic acid 4-chloro-5-methoxy-2-nitro-phenyl ester
To a solution of 4-chloro-5-methoxy-2-nitro-phenol (6.5 g) in dichloromethane (150 mL) at 0° C. under an atmosphere of argon is added triethylamine (10 g) and then a solution of trifluoro-methanesulfonic anhydride (13.5 g) in dichloromethane (30 mL). The solution is stirred at 0° C. for 10 minutes, and is then diluted with dichloromethane and washed successively with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. After drying over anhydrous sodium sulfate the solvent is removed by evaporation under reduced pressure and the residue is dissolved in a solution of 20% dichloromethane in hexanes and passed through a short column of hydrous magnesium silicate (20% dichloromethane in hexanes is used as the eluant). Product containing fractions are pooled and the solvents removed by evaporation under reduced pressure to give the desired product as a yellow oil.

reactant | 4-chloro-5-methoxy-2-nitro-phenol | 6.5 g | ClC1=CC(=C(C=C1OC)O)[N+](=O)[O-] | C7H6ClNO4
reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
reactant | trifluoro-methanesulfonic anhydride | 13.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-chloro-5-methoxy-2-nitro-phenyl ester | ClC1=CC(=C(C=C1OC)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C8H5ClF3NO6S
